US09422279B2
A mixture of 5-hydroxy-2-methoxyisonicotinaldehyde (395 mg, 2.58 mmol, 1 eq.), 3-(chloromethyl)-2-(1-isopropyl-1H-pyrazol-5-yl)pyridine hydrochloride (700 mg, 2.58 mmol, 1 eq.), and K2CO3 (1.4 g, 10.32 mmol, 4 eq.) in DMF (10.0 mL) was heated at 70° C. for 2 h. The mixture was cooled, filtered, concentrated, and purified on silica gel using a mixture of EtOAc and hexanes as eluent to give 5-((2-(1-isopropyl-1H-pyrazol-5-yl)pyridin-3-yl)methoxy)-2-methoxyisonicotinaldehyde (590 mg, 65%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 10.41 (s, 1H), 8.76 (dd, J=4.7, 1.6 Hz, 1H), 8.04 (dd, J=7.9, 1.6 Hz, 1H), 7.90 (s, 1H), 7.61 (d, J=1.8 Hz, 1H), 7.44 (dd, J=7.9, 4.8 Hz, 1H), 7.10 (s, 1H), 6.37 (d, J=1.8 Hz, 1H), 5.14 (s, 2H), 4.65 (sep, J=6.6 Hz, 1H), 3.91 (s, 3H), 1.49 (d, J=6.6 Hz, 6H); MS (ESI) m/z 353.1 [M+H]+.

reactant | 5-hydroxy-2-methoxyisonicotinaldehyde | 2.58 mmol, 395 mg, 1 eq. | OC1=CN=C(C=C1C=O)OC | C7H7NO3
reactant | 3-(chloromethyl)-2-(1-isopropyl-1H-pyrazol-5-yl)pyridine hydrochloride | 2.58 mmol, 700 mg, 1 eq. | Cl.ClCC=1C(=NC=CC1)C1=CC=NN1C(C)C
reactant | K2CO3 | 10.32 mmol, 1.4 g, 4 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 5-((2-(1-isopropyl-1H-pyrazol-5-yl)pyridin-3-yl)methoxy)-2-methoxyisonicotinaldehyde | 590 mg, 65% | C(C)(C)N1N=CC=C1C1=NC=CC=C1COC1=CN=C(C=C1C=O)OC | C19H20N4O3
